US08563596B2
The compound (+)-trans-2-(4-Amino-2-chlorophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-chromen-4-one (0.25 g, 0.6 mmol) was suspended in methanol (2 mL) and treated with ethereal HCl and the organic solvent evaporated to yield the compound, (+)-trans-2-(4-amino-2-chloro phenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-chromen-4-one hydrochloride.

reactant | (+)-trans-2-(4-Amino-2-chlorophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-chromen-4-one | 0.6 mmol, 0.25 g | NC1=CC(=C(C=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO)Cl | C21H21ClN2O5
reactant | HCl | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | (+)-trans-2-(4-amino-2-chloro phenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-chromen-4-one hydrochloride | Cl.NC1=CC(=C(C=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO)Cl | InChI=1S/C21H21ClN2O5.ClH/c1-24-5-4-12(14(24)9-25)19-15(26)7-16(27)20-17(28)8-18(29-21(19)20)11-3-2-10(23)6-13(11)22;/h2-3,6-8,12,14,25-27H,4-5,9,23H2,1H3;1H/t12-,14+;/m1./s1
